US06159990
To a solution of 3,4-difluorobenzaldehyde (5.0 g, 35.2 mmol) in diethyl ether (35 mL)in a round bottom flask was added a solution of ethylmagnesium bromide in THF (38.0 mL, 38.0 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 1 h when TLC analysis indicated that the reaction was complete (Rf =0.5, 8:1 hexane/EtOAc). The reaction was quenched carefully by adding 38 mL of water. It was extracted with diethyl ether (2×30 mL), washed with brine and the organic layer was dried over Na2SO4. The solvent was removed in vacuo after filtration and 1-(3,4-difluorophenyl)propan-1-ol was obtained as a yellow oil (crude wt.=6.0 g) which looked >90% pure by NMR. It was used in the next step without purification.

reactant | 3,4-difluorobenzaldehyde | 35.2 mmol, 5.0 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | ethylmagnesium bromide | C(C)[Mg]Br
reactant | THF | 38.0 mmol, 38.0 mL | C1CCOC1 | C4H8O
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | diethyl ether | 35 mL | C(C)OCC | C4H10O
product | 1-(3,4-difluorophenyl)propan-1-ol | FC=1C=C(C=CC1F)C(CC)O | C9H10F2O
